* first-order delta sigma modulator
* continuous time
* according to Schreier, Temes: Understanding Delta-Sigma Data Converters, 2005
* Fig. 2.13, p. 31

** signal
.param infreq=13k inampl=0.3
** clock
.param clkfreq=5Meg
** simulation time
.param simtime = 5u
.csparam simtime = 'simtime'

** input signal
*SIN(VO VA FREQ TD THETA)
vin in+ in- dc 0 sin(0 'inampl' 'infreq' 0 0)

* clock generation
* PULSE(V1 V2 TD TR TF PW PER)
vclk aclk 0 dc 0 pulse(0 1 0.1u 2n 2n '1/clkfreq/2' '1/clkfreq')

* digital one
* digital zero
vone aone 0 dc 1
vzero azero 0 dc 0
abridge1 [aone azero] [done dzero] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

* digital clock
abridge2 [aclk] [dclk] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

Xmod in+ in- dclk dv dvb mod1

* load mod1 subcircuit
.include mod1-ct.cir

.control
save xmod.adffq in+ in- xmod.outintp xmod.outintn
tran 0.01u $&simtime
* digit density vs input
plot xmod.adffq V("in+","in-") xlimit 0.1m 0.2m
* modulator integrator out, digital out
plot xmod.outintp-xmod.outintn xmod.adffq xlimit 0.140m 0.148m
*eprint dv dclk > digi1.txt
linearize xmod.adffq
fft xmod.adffq
* noise shaping 20dB/decade
plot db(xmod.adffq) xlimit 10k 1Meg xlog ylimit -20 -120
quit
.endc

.end
